### PR TITLE
arch-split Schedule_R

### PR DESCRIPTION
**Pull request by Xaphiosis**
🦆🦆🦆 This PR has the same diff-reducing tech as the TcbAcc_R PR, copied instructions:

In real life, I did the usual addition of Schedule_R, hierarchy update, arch-split and then update. However, since the arch-split part first splits AARCH64, then takes the AARCH64 version of ArchSchedule_R and only fixes what broke, we ended up with a small(er) diff there (again).

Please review commit-by commit with the following notes:
- `[squash] PR: copy AARCH64 version into Schedule_R` - same as last time: stop Schedule_R looking like a wall of green (no need to review)
- `aarch64 refine: arch-split Schedule_R` - this is the main bulk of the arch-split, dealing with AARCH64
- `[squash] copy AARCH64 ArchSchedule_R to other arches` - wipes the *body* (not the header!) of other arches' ArchSchedule_R with a copy of the AARCH64 version with `AARCH64` appropriately substituted (as @corlewis requested last time) - (mostly pointless to review)
- `[squash] refine: arch-split Schedule_R (other arches) - result of fixing up the ArchSchedule_R of other architectures - shows diff to AARCH64, small for this PR
- `refine+crefine: update for ... arch-split`

Reminder: DO NOT MERGE squashed version if it still says `aarch64 refine: arch-split`

Stats: 30 files changed, 3108 insertions(+), 10756 deletions(-)
Total: 7648 lines removed

### CODE REVIEW

File: proof/refine/Schedule_R.thy [hunk 1]
```diff
@@ -2220,10 +1576,23 @@ crunch reschedule_required
...
+     scheduleChooseNewThread
+     \<lbrace>\<lambda>_. invs' \<rbrace>"
+  assumes scheduleChooseNewThread_ct_activatable'[wp]:
+    "\<lbrace> invs' and (\<lambda>s. ksSchedulerAction s = ChooseNewThread) \<rbrace>
+     scheduleChooseNewThread
+     \<lbrace>\<lambda>_. ct_in_state' activatable'\<rbrace>"
+begin
 
-lemma schedule_corres:
+lemma  schedule_corres:
```
Comment (lsf37) [inline proof/refine/Schedule_R.thy]: Looks like an accidental space

File: proof/crefine/ARM_HYP/ArchMove_C.thy [hunk 2]
```diff
@@ -423,7 +423,7 @@ crunch readVCPUReg
   for obj_at'[wp]: "\<lambda>s. P (obj_at' a p s)"
 
 crunch readVCPUReg
-  for pred_tcb_at'[wp]: "\<lambda>s. P (pred_tcb_at' a b p s)"
+  for pred_tcb_at'2[wp]: "\<lambda>s. P (pred_tcb_at' a b p s)"
```
Comment (lsf37) [inline proof/crefine/ARM_HYP/ArchMove_C.thy:426]: Is the `2` intentional here?

File: proof/refine/AARCH64/IpcCancel_R.thy [hunk 3]
```diff
@@ -1220,7 +1222,7 @@ lemma (in delete_one) suspend_corres:
             apply (simp add: AARCH64.nextInstructionRegister_def AARCH64.faultRegister_def
                              AARCH64_H.nextInstructionRegister_def AARCH64_H.faultRegister_def)
             apply (simp add: AARCH64_H.Register_def)
-            apply (fold dc_def, subst unit_dc_is_eq)
```
Comment (lsf37) [inline proof/refine/AARCH64/IpcCancel_R.thy:1223]: nice to see the need for these disappearing

File: proof/refine/Schedule_R.thy [hunk 4]
```diff
@@ -10,23 +10,22 @@ theory Schedule_R
...
-context begin interpretation Arch . (*FIXME: arch-split*)
-
 declare hoare_weak_lift_imp[wp_split del]
+declare sts_rel_idle[simp]
+declare objBitsT_koTypeOf[simp]
+declare gq_wp[wp]
+declare setQueue_obj_at[wp]
+declare doMachineOp_obj_at[wp]
+declare Cons_eq_tails[simp]
+declare hoare_weak_lift_imp_conj[wp_split del]
```
Comment (corlewis) [inline proof/refine/Schedule_R.thy:21]: Not really relevant to this PR but I can't see where either `hoare_weak_lift_imp` or `hoare_weak_lift_imp_conj` are added to `wp_split`. Are these lines needed?

Comment (corlewis) [reply proof/refine/Schedule_R.thy:21]: Some of the other lemmas also look unnecessary. It might be worth going through and removing any that have already been declared, and moving the others to their sources (or at least adding a FIXME).

File: proof/refine/Schedule_R.thy [hunk 5]
```diff
@@ -788,6 +516,76 @@ lemma tcbSchedAppend_valid_bitmaps[wp]:
...
+  assumes switchToThread_it[wp]:
+    "\<And>t P. switchToThread t \<lbrace>\<lambda>s. P (ksIdleThread s)\<rbrace>"
+  assumes switchToIdleThread_it[wp]:
+    "\<And>P. switchToIdleThread \<lbrace>\<lambda>s. P (ksIdleThread s)\<rbrace>"
+  assumes switchToIdleThread_ct_not_queued_no_cicd':
+    "\<lbrace>invs_no_cicd'\<rbrace> switchToIdleThread \<lbrace>\<lambda>_ s. obj_at' (Not \<circ> tcbQueued) (ksCurThread s) s \<rbrace>"
+  assumes switchToIdleThread_activatable_2[wp]:
+    "\<lbrace>invs_no_cicd'\<rbrace> switchToIdleThread \<lbrace>\<lambda>_. ct_in_state' activatable'\<rbrace>"
+  assumes switchToIdleThread_invs_no_cicd':
+    "\<lbrace>invs_no_cicd'\<rbrace> switchToIdleThread \<lbrace>\<lambda>rv. invs'\<rbrace>"
```
Comment (corlewis) [inline proof/refine/Schedule_R.thy]: Is it worth trying to make any of these generic, with an interface lemma for `Arch.switchToThread` / `Arch.switchToIdleThread` instead?

File: proof/refine/Schedule_R.thy [hunk 6]
```diff
@@ -788,6 +516,76 @@ lemma tcbSchedAppend_valid_bitmaps[wp]:
...
+
+context Schedule_R begin
```
Comment (corlewis) [inline proof/refine/Schedule_R.thy]: Out of curiosity, do we have a style or performance preference between
```
locale Schedule_R =
  ...
context Schedule_R begin
```
and
```
locale Schedule_R =
  ...
begin
```

File: proof/refine/Schedule_R.thy [hunk 7]
```diff
@@ -788,6 +516,76 @@ lemma tcbSchedAppend_valid_bitmaps[wp]:
   apply (clarsimp simp: valid_bitmaps_def)
   done
 
+locale Schedule_R =
+  assumes tcbSchedAppend_state_hyp_refs_of'[wp]:
+    "\<And>P t. tcbSchedAppend t \<lbrace>\<lambda>s. P (state_hyp_refs_of' s)\<rbrace>"
+  assumes tcbSchedDequeue_state_hyp_refs_of'[wp]:
+    "\<And>P t. tcbSchedDequeue t \<lbrace>\<lambda>s. P (state_hyp_refs_of' s)\<rbrace>"
+  assumes arch_switchToThread_corres_interface:
```
Comment (corlewis) [inline proof/refine/Schedule_R.thy:525]: For future reference, what convention do you have in mind with this naming scheme of adding interface as a suffix?

File: proof/refine/Schedule_R.thy [hunk 8]
```diff
@@ -1206,43 +1059,15 @@ lemma setThreadState_rct:
...
-   apply (rule word_of_nat_less)
-    apply (fastforce intro: word_of_nat_less simp: wordRadix_def' unat_of_nat word_size)+
-  done
+context Schedule_R begin
 
 lemma bitmapQ_from_bitmap_lookup:
-  "\<lbrakk> ksReadyQueuesL1Bitmap s d \<noteq> 0 ;
-     valid_bitmapQ s ; bitmapQ_no_L1_orphans s
-     \<rbrakk>
+  "\<lbrakk> ksReadyQueuesL1Bitmap s d \<noteq> 0 ; valid_bitmapQ s ; bitmapQ_no_L1_orphans s \<rbrakk>
```
Comment (corlewis) [inline proof/refine/Schedule_R.thy]: I know it's existing but while we're here
```suggestion
  "\<lbrakk> ksReadyQueuesL1Bitmap s d \<noteq> 0; valid_bitmapQ s; bitmapQ_no_L1_orphans s \<rbrakk>
```

Comment (corlewis) [reply proof/refine/Schedule_R.thy]: And same for `bitmapL1_highest_lookup` later on

File: proof/refine/AARCH64/ArchSchedule_R.thy [hunk 9]
```diff
@@ -0,0 +1,745 @@
...
+  (simp: crunch_simps wp: crunch_wps)
+
+crunch switchToThread
+  for cap_to'[wp]: "ex_nonz_cap_to' p"
+  (simp: crunch_simps)
+
+crunch "ThreadDecls_H.switchToThread"
+  for ksCurDomain[wp]: "\<lambda>s. P (ksCurDomain s)"
+
+ (* neater unfold, actual unfold is really ugly *)
```
Comment (corlewis) [inline proof/refine/AARCH64/ArchSchedule_R.thy]:
```suggestion
(* neater unfold, actual unfold is really ugly *)
```

Comment (corlewis) [reply proof/refine/AARCH64/ArchSchedule_R.thy]: And in other arches

File: proof/refine/ARM_HYP/ArchSchedule_R.thy [hunk 10]
```diff
@@ -12,58 +13,60 @@ context Arch begin arch_global_naming
...
-  (simp: crunch_simps wp: crunch_wps)
-
-lemma vcpu_switch_valid_global_arch_objs[wp]:
-  "vcpu_switch v \<lbrace>valid_global_arch_objs\<rbrace>"
-  by (wp valid_global_arch_objs_lift)
-
-crunch set_vm_root
-  for pspace_distinct[wp]: pspace_distinct
-  (simp: crunch_simps)
+(*  and valid_asid_table[wp]: "valid_asid_table at" *) (* FIXME arch-split:  *)
```
Comment (corlewis) [inline proof/refine/ARM_HYP/ArchSchedule_R.thy]: Is this FIXME resolvable now or are we waiting to see if it's needed in later files?

File: proof/refine/RISCV64/ArchSchedule_R.thy [hunk 11]
```diff
@@ -0,0 +1,427 @@
...
+crunch arch_switch_to_thread, arch_switch_to_idle_thread
+  for pspace_aligned[Schedule_R_assms, wp]: pspace_aligned
+  and pspace_distinct[Schedule_R_assms, wp]: pspace_distinct
+  and ready_queues[Schedule_R_assms, wp]: "\<lambda>s. P (ready_queues s)"
+  and ready_qs_distinct[wp]: ready_qs_distinct
+  (wp: ready_qs_distinct_lift crunch_wps simp: crunch_simps)
+
+lemma arch_switchToThread_corres:
+  "corres dc (valid_arch_state and valid_objs and pspace_aligned and pspace_distinct
+                and valid_vspace_objs and tcb_at t)
```
Comment (corlewis) [inline proof/refine/RISCV64/ArchSchedule_R.thy]:
```suggestion
              and valid_vspace_objs and tcb_at t)
```

File: proof/refine/X64/ArchSchedule_R.thy [hunk 12]
```diff
@@ -0,0 +1,559 @@
...
+              and valid_vspace_objs and pspace_in_kernel_window and valid_cur_fpu and tcb_at t)
+             (no_0_obj')
+             (arch_switch_to_thread t) (Arch.switchToThread t)"
+  by (corres corres: arch_switchToThread_corres; simp add: valid_arch_caps_def)
+
+lemma arch_switchToIdleThread_corres:
+  "corres dc
+        (valid_arch_state and valid_objs and valid_asid_map and unique_table_refs \<circ> caps_of_state
+           and valid_vs_lookup and valid_global_objs and pspace_aligned and pspace_distinct
+           and valid_vspace_objs and valid_idle)
```
Comment (corlewis) [inline proof/refine/X64/ArchSchedule_R.thy]:
```suggestion
lemma arch_switchToIdleThread_corres:
  "corres dc
        (valid_arch_state and valid_objs and valid_asid_map and unique_table_refs \<circ> caps_of_state
         and valid_vs_lookup and valid_global_objs and pspace_aligned and pspace_distinct
         and valid_vspace_objs and valid_idle)
```

**Review by corlewis — APPROVED** [review]
Looks very good to me, just a minor suggestions!

File: proof/crefine/ARM_HYP/ArchMove_C.thy (hunk 2 above)
Comment (Xaphiosis) [reply proof/crefine/ARM_HYP/ArchMove_C.thy:426]: Yes, sadly. Due to arch-splitting introducing a crunch that as part of its action generates a `readVCPUReg_pred_tcb_at'` without the `P`, we need a new name. I looked around this file, and this happened before and was resolved with a `2`, so I stuck with that.

File: proof/refine/Schedule_R.thy (hunk 7 above)
Comment (Xaphiosis) [reply proof/refine/Schedule_R.thy:525]: If you look at the arch files, you'll see comments like:
```
(* use superset of arch_switchToThread_corres preconditions across the architectures as interface *)
...
(* use superset of arch_switchToIdleThread_corres preconditions across the architectures as interface *)
```

What this means is that the one tagged `_interface` is not what you want on any architecture, but can be used as a compromise for (a) generic proof(s). In other words, it's artificial. E.g. on X64 you don't need `sym_refs (state_hyp_refs_of s)` for `arch_switchToThread_corres`, but as part of this work I had to clean up fictitious preconditions of `arch_switchToThread_corres` et. al. across architectures already in order to get it to work, so I don't want to add them back to the actual corres rule, hence I add it back to ones I specifically constructed for the task. Does that make any sense? Can you think of a better name scheme?

File: proof/refine/Schedule_R.thy (hunk 6 above)
Comment (Xaphiosis) [reply proof/refine/Schedule_R.thy]: Honestly not sure what we should be aiming for with this one. I think in this case there was something in between them which I then had to move due to some dependency or other. So this form is definitely more flexible, but it does end up looking a bit silly. Thoughts?

File: proof/refine/Schedule_R.thy (hunk 5 above)
Comment (Xaphiosis) [reply proof/refine/Schedule_R.thy]: Good question. Not sure, I'll have to investigate, because I've forgotten my thought process when I did this.

File: proof/refine/Schedule_R.thy (hunk 4 above)
Comment (Xaphiosis) [reply proof/refine/Schedule_R.thy:21]: They don't generate a warning, because I'm cleaning up as many warnings as I can and wouldn't leave it in if it did nothing. However, current time constraints mean I'm unlikely to go for a hunt for where all these got added.

Comment (Xaphiosis) [reply proof/refine/Schedule_R.thy:21]: Unless I'm assuming something incorrect here... do `[wp_split del]` even generate warnings?

Comment (corlewis) [reply proof/refine/Schedule_R.thy:21]: Yeah, I don't think any of our `wp` attributes generate warnings. Probably something we should fix.

File: proof/crefine/ARM_HYP/ArchMove_C.thy (hunk 2 above)
Comment (corlewis) [reply proof/crefine/ARM_HYP/ArchMove_C.thy:426]: Would it be possible to change that other crunch to have a `P`? Or will that be too much rebuilding for this moment.

File: proof/refine/Schedule_R.thy (hunk 6 above)
Comment (corlewis) [reply proof/refine/Schedule_R.thy]: Ah, that makes sense. I guess that's a direct example of the increased flexibility so maybe we should lean towards that form. I agree it does look a bit silly though.

File: proof/refine/Schedule_R.thy (hunk 7 above)
Comment (corlewis) [reply proof/refine/Schedule_R.thy:525]: That makes sense, and is probably a pattern we could use for quite a few other lemmas in our various interfaces. There's been a few times where there's been some confusion around different preconditions being required across architectures.

File: proof/crefine/ARM_HYP/ArchMove_C.thy (hunk 2 above)
Comment (Xaphiosis) [reply proof/crefine/ARM_HYP/ArchMove_C.thy:426]: I already tried that, and could not get it stable across the arches. The original crunch doesn't pass with a `P`

Comment (lsf37) [reply proof/crefine/ARM_HYP/ArchMove_C.thy:426]: Alright, let's leave it. Not even sure it needs a comment, just wanted to make sure it wasn't an accident.

File: proof/refine/Schedule_R.thy (hunk 6 above)
Comment (lsf37) [reply proof/refine/Schedule_R.thy]: Generally I think we should prefer the direct `begin`, because first declaring the locale then doing `context begin` means first leaving then entering the context again. Depending on how large that context is, that can take considerable time. Probably does not in this case, but as a general rule of thumb, I'd avoid the unnecessary leave/enter.

File: proof/refine/Schedule_R.thy (hunk 7 above)
Comment (Xaphiosis) [reply proof/refine/Schedule_R.thy:525]: I'll try keep an eye out as well, but I don't remember having encountered something like this before. In this case, I had to figure out what the actual preconditions are, because there were unnecessary ones on old arches that got in the way, but then there was also a superset. I'm guessing there are some around, but without a deep dive like this I missed them.

File: proof/crefine/ARM_HYP/ArchMove_C.thy (hunk 2 above)
Comment (corlewis) [reply proof/crefine/ARM_HYP/ArchMove_C.thy:426]: Yeah, that doesn't seem worth trying to fix. I guess there must be some intermediate crunches or lemmas that are needed for it to work.

File: proof/refine/AARCH64/ArchSchedule_R.thy (hunk 9 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/ArchSchedule_R.thy]: nice catch

File: proof/refine/ARM_HYP/ArchSchedule_R.thy (hunk 10 above)
Comment (Xaphiosis) [reply proof/refine/ARM_HYP/ArchSchedule_R.thy]: resolvable, thanks

File: proof/refine/Schedule_R.thy (hunk 5 above)
Comment (Xaphiosis) [reply proof/refine/Schedule_R.thy]: I dug into this and refreshed my memory. The answer is sadly no, because there is not a wrapped "Arch" part of these. In other words:

```
thm switchToIdleThread_def switchToThread_def
```

yields

```
  Arch.switchToIdleThread ≡ do vcpuSwitch Nothing;
                               setGlobalUserVSpace
                            od
  Arch.switchToThread ?tcb ≡ do tcbobj <- getObject ?tcb;
                                vcpuSwitch (atcbVCPUPtr $ tcbArch tcbobj);
                                setVMRoot ?tcb;
                                lazyFpuRestore ?tcb
                             od
```

Since we can't process `vcpuSwitch` generically as it doesn't exist on non-VCPU arches, and FPU on non-FPU arches I have to handle the next thing up. Normally the solution would be to create an Arch wrapper and shove it before or after, but in this case we'd need one for before and after? No idea. Any further thoughts?

File: proof/refine/X64/ArchSchedule_R.thy (hunk 12 above)
Comment (Xaphiosis) [reply proof/refine/X64/ArchSchedule_R.thy]: done

File: proof/refine/RISCV64/ArchSchedule_R.thy (hunk 11 above)
Comment (Xaphiosis) [reply proof/refine/RISCV64/ArchSchedule_R.thy]: done

File: proof/refine/Schedule_R.thy (hunk 8 above)
Comment (Xaphiosis) [reply proof/refine/Schedule_R.thy]: done

File: proof/refine/Schedule_R.thy (hunk 1 above)
Comment (Xaphiosis) [reply proof/refine/Schedule_R.thy]: cheers, removed

File: proof/refine/Schedule_R.thy (hunk 4 above)
Comment (Xaphiosis) [reply proof/refine/Schedule_R.thy:21]: Now that we have a way of suppressing warnings in Eisbach methods, might be a good idea indeed.

For now, I added `(* FIXME: review which of these are necessary/redundant and move *)` as a reminder.

File: proof/refine/Schedule_R.thy (hunk 5 above)
Comment (corlewis) [reply proof/refine/Schedule_R.thy]: Ah, looks like we've messed up the naming of these definitions. On ARM I have
```
thm Thread_H.switchToIdleThread_def switchToIdleThread_def
```
yielding
```
  global.switchToIdleThread ≡ do stateAssert ready_qs_runnable [];
                                  thread <- getIdleThread;
                                  Arch.switchToIdleThread;
                                  setCurThread thread
                               od
  Arch.switchToIdleThread ≡ getIdleThread >>= setVMRoot
```
That is, we have a generic and Arch part but the names aren't the way we normally want them.

Comment (corlewis) [reply proof/refine/Schedule_R.thy]: Which I think means that this is the interface that I expected, I just didn't realise it due to the names making it look like it would be for the generic constants.

Comment (Xaphiosis) [reply proof/refine/Schedule_R.thy]: Now you've made me paranoid, I will check again to confirm.

Comment (Xaphiosis) [reply proof/refine/Schedule_R.thy]: Yeah, you're right. I got confused between the Arch and non-Arch versions between the locales. I will try change the interfaces to be on the `Arch.` versions

File: proof/refine/Schedule_R.thy (hunk 6 above)
Comment (Xaphiosis) [reply proof/refine/Schedule_R.thy]: Removed the unnecessary leave/enter.

File: proof/refine/Schedule_R.thy (hunk 5 above)
Comment (Xaphiosis) [reply proof/refine/Schedule_R.thy]: Can you check the latest commit? I managed to extract a bit more generic stuff by doing it as you suggested.

I also took a look at tcbSchedAppend et al over hyp refs, but that requires rules related to VCPUs to process, and those can't really be written generically.

Comment (corlewis) [reply proof/refine/Schedule_R.thy]: Looks good to me!

Yeah, making those lemmas  more generic but `state_hyp_refs_of'` being harder is understandable.
